US06271225B1
In the same manner as in Starting Material Synthesis Example 4 and using ethyl 2-aminobenzo[b]thiophene-3-carboxylate, 2,4-dibromonitrobenzene and dimethyl sulfoxide, ethyl 2-(5-bromo-2-nitroanilino)benzo[b]thiophene-3-carboxylate is obtained.

reactant | ethyl 2-aminobenzo[b]thiophene-3-carboxylate | NC1=C(C2=C(S1)C=CC=C2)C(=O)OCC | C11H11NO2S
reactant | 2,4-dibromonitrobenzene | BrC1=C(C=CC(=C1)Br)[N+](=O)[O-] | C6H3Br2NO2
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | ethyl 2-(5-bromo-2-nitroanilino)benzo[b]thiophene-3-carboxylate | BrC=1C=CC(=C(NC2=C(C3=C(S2)C=CC=C3)C(=O)OCC)C1)[N+](=O)[O-] | C17H13BrN2O4S
